US09315495B2
The compound was synthesized as in Example 3.1 using 2-methyl-4-bromobenzaldehyde (113 mg, 0.57 mmol) in place of 5-bromo-2-formylfuran and potassium butyltrifluoroborate (113 mg, 0.69 mmol) in place of hexylboronic acid to give 2-methyl-4-butylbenzaldehyde (34 mg, 35%). Used without further characterization.

reactant | 2-methyl-4-bromobenzaldehyde | 0.57 mmol, 113 mg | CC1=C(C=O)C=CC(=C1)Br | C8H7BrO
reactant | potassium butyltrifluoroborate | 0.69 mmol, 113 mg | C(CCC)[B-](F)(F)F.[K+]
product | 2-methyl-4-butylbenzaldehyde | 34 mg, 35% | CC1=C(C=O)C=CC(=C1)CCCC | C12H16O
